US06916819B2
6. Preparation of 1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-6-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine
A solution of 2-Chloromethyl-1-ethyl-6-trifluoromethyl-1H-imidazo[4,5-c]pyridine (1 g, 3.8 mmol) in anhydrous DMF (15 mL) were added K2CO3 (2.68 g, 19 mmol), and 2-(1H-imidazol-2-yl)-thiazole (555 mg, 3.8 mmol) and stirred at room temperature for 48 h. The crude residue after usual work up was purified eluting with 5% MeOH-CH2Cl2 containing few drops of NH4OH to afford1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-6-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine (800 mg, 80 %); 1H NMR (CD3OD): δ 8.83 (s, 1H), 8.14 (s, 1H), 7.71 (d, J=2.7 Hz, 1H), 7.53 (d, J=2.7 Hz, 1H), 7.45 (d, J=0.9 Hz, 1H), 7.19 (d, J=0.9 Hz, 1H), 6.30 (s, 2H), 4.54 (q, J=5.4 Hz, 2H), 1.46 (t, J=5.4 Hz, 3H); m/z 379 [M+1]

reactant | 2-Chloromethyl-1-ethyl-6-trifluoromethyl-1H-imidazo[4,5-c]pyridine | 3.8 mmol, 1 g | ClCC=1N(C2=C(C=NC(=C2)C(F)(F)F)N1)CC | C10H9ClF3N3
reactant | K2CO3 | 19 mmol, 2.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(1H-imidazol-2-yl)-thiazole | 3.8 mmol, 555 mg | N1C(=NC=C1)C=1SC=CN1 | C6H5N3S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-6-(trifluoromethyl)-1H-imidazo[4,5-c]pyridine | C(C)N1C(=NC=2C=NC(=CC21)C(F)(F)F)CN2C(=NC=C2)C=2SC=CN2 | C16H13F3N6S
